US03980522
Degradation of calvatic acid in 1 N HCl containing 10% of methanol under reflux for 15 hours followed by silicic acid chromatography gave p-hydroxy-benzoic acid, melting at 210°-211° C., which was identified by comparison with the infrared spectrum of an authentic sample. Elemental analysis: found: C, 61.03; H, 4.76; N, 0.0, m/e 138; calcd. for C7H6O3 : C, 60.87; H, 4.38, m.w., 138. The data on high resolution mass spectrum of calvatic acid methyl ester is as follows:

reactant | calvatic acid | C1=CC(=CC=C1C(=O)O)[N+](=NC#N)[O-] | C8H5N3O3
reactant | methanol | CO | CH4O
reactant | silicic acid | [Si](O)(O)(O)O | H4O4Si
solvent | HCl | 1 N | Cl | ClH
product | p-hydroxy-benzoic acid | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
